US04943591
(a) N-[5-[3-(4-Methoxyphenyl)propoxy]pentyl]benzenemethanamine hydrochloride
1-[3-[(5-Bromopentyl)oxy]propyl]-4-methoxybenzene (2.0 g) was added to benzylamine (6 ml) at 120° under nitrogen. The solution was stirred for 2 h at 120° then added (hot) to 2N hydrochloric acid (50 ml) and water (25 ml). The resulting precipitate was collected by filtration, washed with 2N hydrochloric acid, water and ER then dried at 50° under vacuum to give the title compound as a white solid (1.79 g) m.p. 118°-121°. The following compound was prepared in a similar manner:

reactant | 1-[3-[(5-Bromopentyl)oxy]propyl]-4-methoxybenzene | 2.0 g | BrCCCCCOCCCC1=CC=C(C=C1)OC | C15H23BrO2
reactant | benzylamine | 6 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | N-[5-[3-(4-Methoxyphenyl)propoxy]pentyl]benzenemethanamine hydrochloride | 1.79 g | Cl.COC1=CC=C(C=C1)CCCOCCCCCNCC1=CC=CC=C1 | InChI=1S/C22H31NO2.ClH/c1-24-22-14-12-20(13-15-22)11-8-18-25-17-7-3-6-16-23-19-21-9-4-2-5-10-21;/h2,4-5,9-10,12-15,23H,3,6-8,11,16-19H2,1H3;1H
